US03991200
Preparation of 2-(2-Formamido-5-thiadiazolyl)-1-methyl-5-nitroimidazole
The above compound is prepared by refluxing 8 gm. of 2-(2-amino-5-thiadiazolyl)-1-methyl-5-nitroimidazole in 30 ml. of 98% formic acid for 10 hours, cooling, and adding the mixture to saturated sodium bicarbonate solution, and the solid collected. The compound melts at 225° to 227° C.

reactant | 2-(2-amino-5-thiadiazolyl)-1-methyl-5-nitroimidazole | NN1SC(=CN1)C=1N(C(=CN1)[N+](=O)[O-])C | C6H8N6O2S
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | formic acid | C(=O)O | CH2O2
product | 2-(2-Formamido-5-thiadiazolyl)-1-methyl-5-nitroimidazole | C(=O)NN1SC(=CN1)C=1N(C(=CN1)[N+](=O)[O-])C | C7H8N6O3S
